US09107916B2
B. methyl 2-[5-[(4-cyano-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate
To a mixture of methyl 2-(5-hydroxypyrazol-1-yl)pyridine-4-carboxylate (PREPARATION 6, 112 mg, 0.51 mmol), 4-(hydroxymethyl)-3-methylbenzonitrile (83 mg, 0.56 mmol), PPh3 (268 mg, 1.02 mmol) and THF (6 mL) cooled in ice-water bath, DIAD (207 mg, 1.02 mmol) was added. The mixture was stirred overnight at room temperature. It was then concentrated and purified by flash column chromatograph to give 112 mg of the title compound (63%). [M+H] Calc'd for C19H16N4O3, 349. Found, 349.

reactant | methyl 2-(5-hydroxypyrazol-1-yl)pyridine-4-carboxylate | 0.51 mmol, 112 mg | OC1=CC=NN1C1=NC=CC(=C1)C(=O)OC | C10H9N3O3
reactant | 4-(hydroxymethyl)-3-methylbenzonitrile | 0.56 mmol, 83 mg | OCC1=C(C=C(C#N)C=C1)C | C9H9NO
reactant | PPh3 | 1.02 mmol, 268 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.02 mmol, 207 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | methyl 2-[5-[(4-cyano-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate | 112 mg, 63% | C(#N)C1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C(=O)OC)C | C19H16N4O3
